US07732626B2
2′,6′-dimethyl-4′-[3-(methylthio)propoxy]-6-phenoxybiphenyl-3-carbaldehyde
3-Bromo-4-phenoxybenzaldehyde (1.11 g, 4.00 mmol), {2,6-dimethyl-4-[3-(methylthio)propoxy]phenyl}boronic acid (1.02 g, 4.00 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (0.263 g, 0.640 mmol) and tripotassium phosphate (1.70 g, 8.00 mmol) were dissolved in a mixed solvent of toluene (20 mL) and water (4 mL). After argon substitution, tris(dibenzylideneacetone)dipalladium(0) (0.147 g, 0.160 mmol) was added. The reaction mixture was stirred at 100° C. for 18 hr under argon atmosphere. The reaction mixture was allowed to cool, and water was added. The mixture was diluted with ethyl acetate, and the insoluble substance was filtered off through celite. The organic layer of the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-20:80) to give the title compound (1.13 g, yield 70%) as a yellow oil.

reactant | 3-Bromo-4-phenoxybenzaldehyde | 4.00 mmol, 1.11 g | BrC=1C=C(C=O)C=CC1OC1=CC=CC=C1 | C13H9BrO2
reactant | {2,6-dimethyl-4-[3-(methylthio)propoxy]phenyl}boronic acid | 4.00 mmol, 1.02 g | CC1=C(C(=CC(=C1)OCCCSC)C)B(O)O | C12H19BO3S
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.640 mmol, 0.263 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | tripotassium phosphate | 8.00 mmol, 1.70 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.160 mmol, 0.147 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′,6′-dimethyl-4′-[3-(methylthio)propoxy]-6-phenoxybiphenyl-3-carbaldehyde | 1.13 g, yield 70% | CC1=C(C(=CC(=C1)OCCCSC)C)C1=CC(=CC=C1OC1=CC=CC=C1)C=O | C25H26O3S
